US06884814B2
Step a) (2,5-Dihydroxyphenyl)(4-hydroxyphenyl)methanone.
To a cooled solution (0° C.) of 4-methoxybenzoyl chloride (5.1 g, 30 mmol) and 1,4-dimethoxy benzene (4.1 g, 30 mmol) in dichloroethane (100 mL) was added aluminum chloride (4.0 g, 30 mmol) and the reaction mixture was stirred at room temperature for 1 h. The reaction was then quenched with 2N HCl and the organic layer was separated and dried over MgSO4. The organic layer was concentrated to give an oil, which was purified by column chromatography(eluent 20% EtOAc/hexanes) to give an oil (4.7 g, 58% yield). The product, (2,5-dimethoxyphenyl)(4-methoxyphenyl)methanone (4.7 g, 17.2 mmol) and pyridine hydrochloride (20 g) was heated to 200° C. After 1 hr, the reaction was cooled, diluted with 2N HCl and extracted with EtOAc. The organic layer was dried over MgSO4, and concentrated to give an oil residue. The crude product was taken up into CH2Cl2 and a solid crystallized out which was collected by filtration (3.1 g, 78% yield); 1H NMR (DMSO-d6) 10.37 (s, 1H), 9.64 (s, 1H), 9.03 (s, 1H), 7.61 (d, 2H, J=8.6 Hz), 6.86-6.75 (m, 4H), 6.67 (d, 1H); MS m/e 229 (M−H)+.

reactant | (2,5-dimethoxyphenyl)(4-methoxyphenyl)methanone | 17.2 mmol, 4.7 g | COC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)OC | C16H16O4
reactant | pyridine hydrochloride | 20 g | Cl.N1=CC=CC=C1
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | HCl | 2N | Cl | ClH
product | (2,5-Dihydroxyphenyl)(4-hydroxyphenyl)methanone | OC1=C(C=C(C=C1)O)C(=O)C1=CC=C(C=C1)O | C13H10O4
